US08859541B2
F5b) tert-butyl-N-methyl-N-[1-[[5-[methyl(oxane-4-carbonyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate
At RT NaH (60% dispersion in mineral oil, 2.3 mg, 0.0.06 mmol) is added to tert-butyl-N-methyl-N-[1-[[5-(oxane-4-carbonylamino)-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate E5b (35 mg, 0.04 mmol) in THF (1 ml). After stirring for 10 minutes dimethylsulfate (4 μl, 0.06 mmol) is added to the mixture and stirring continued for 20 minutes. The mixture is concentrated in vacuo and the product purified by RP HPLC. Yield: 5 mg (23%). HPLC-MS: M+H=521; tR=2.06 min (*Method—2).

reactant | NaH | 2.3 mg | [H-].[Na+]
reactant | tert-butyl-N-methyl-N-[1-[[5-(oxane-4-carbonylamino)-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(N(C(C(=O)NC1=NC(=C(C=C1)NC(=O)C1CCOCC1)C#CC1=CC=CC=C1)C)C)=O | C28H34N4O5
reactant | dimethylsulfate | 0.06 mmol, 4 μl | COS(=O)(=O)OC | C2H6O4S
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | tert-butyl-N-methyl-N-[1-[[5-[methyl(oxane-4-carbonyl)amino]-6-(2-phenylethynyl)pyridin-2-yl]amino]-1-oxopropan-2-yl]carbamate | C(C)(C)(C)OC(N(C(C(=O)NC1=NC(=C(C=C1)N(C(=O)C1CCOCC1)C)C#CC1=CC=CC=C1)C)C)=O | C29H36N4O5
